US06369075B1
A solution of 4′-trifluoromethyl-biphenyl-2-carboxylic acid (3-amino-4-formyl-phenyl)-amide (7 g, 18.2 mmol, 1 equiv) and 3-hydroxy-acrylic acid ethyl ester, sodium salt (2.52 g, 18.2 mmol, 1 equiv) in glacial acetic acid (70 mL, 10 volumes) was heated at 80° C. for 2 hours. Additional 3-hydroxy-acrylic acid ethyl ester, sodium salt (2.52 g, 18.2 mmol, 1 equiv) was added and the solution heated for 15 hours. Again, additional 3-hydroxy-acrylic acid ethyl ester, sodium salt (1.26 g, 9.1 mmol, 0.5 equiv) was added and the solution heated for another 4 hours. The reaction mixture was concentrated in vacuo. The residue was dissolved in EtOAc (300 mL) and the organic layer was washed with a saturated aqueous sodium carbonate solution (2×200 mL) and 1 N NaOH solution (200 mL). The combined aqueous layers were back extracted with ethyl acetate (200 mL). The combined organic layers were dried over sodium sulfate and treated with Darco G-60® (7 g). The solids were removed by filtration and the filtrate was concentrated to afford crude 7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester, which was used in the next step without further purification.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid (3-amino-4-formyl-phenyl)-amide | 18.2 mmol, 7 g, 1 equiv | NC=1C=C(C=CC1C=O)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C21H15F3N2O2
reactant | 3-hydroxy-acrylic acid ethyl ester | C(C)OC(C=CO)=O | C5H8O3
reactant | sodium | 18.2 mmol, 2.52 g, 1 equiv | [Na] | Na
reactant | sodium | 18.2 mmol, 2.52 g, 1 equiv | [Na] | Na
reactant | sodium | 9.1 mmol, 1.26 g, 0.5 equiv | [Na] | Na
reactant | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 7-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C26H19F3N2O3
